US07449467B2
(1R,3S)-3-Isopropyl-3-(4-[6-methyl-4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine
A solution of tert-butyl [(1R,3S)-3-isopropyl-3-(4-[6-methyl-4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate (200 mg, 1.65 mmol) dissolved in 4 M of HCl in 1,4-dioxane (10 mL, 40 mmol) was stirred at room temperature for 1 h. The reaction was diluted with methylene chloride, washed with saturated NaHCO3 solution, dried with sodium sulfate, filtered, and concentrated in vacuo to provide the desired product (0.15 g, 94%). LCMS calculated for C20H30F3N4O: (M+1) 399.2; found 399.2.

reactant | tert-butyl [(1R,3S)-3-isopropyl-3-(4-[6-methyl-4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentyl]carbamate | 1.65 mmol, 200 mg | C(C)(C)[C@]1(C[C@@H](CC1)NC(OC(C)(C)C)=O)C(=O)N1CCN(CC1)C1=NC(=CC(=C1)C(F)(F)F)C | C25H37F3N4O3
reactant | 1,4-dioxane | 40 mmol, 10 mL | O1CCOCC1 | C4H8O2
solvent | HCl | 4 M | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (1R,3S)-3-Isopropyl-3-(4-[6-methyl-4-(trifluoromethyl)pyridin-2-yl]piperazin-1-ylcarbonyl)cyclopentanamine | 0.15 g, 94% | C(C)(C)[C@]1(C[C@@H](CC1)N)C(=O)N1CCN(CC1)C1=NC(=CC(=C1)C(F)(F)F)C | C20H29F3N4O
